Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hip pain s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M with PMH Factor V Leiden (on warfarin),
DM, HTN who presented to ___ as a transfer from ___ after being found to have R acetabulum and inferior
ramus fractures after a fall two days PTA. 

Per his report he fell backwards onto his right buttocks while
stepping off of the curb. He denies and head strike or loss of
consciousness. Reports that he initially went home after his
injury and spent 2 days in bed unable to walk. He eventually
presented to ___ on ___ due to persistent pain. Of note
patient denies any urinary incontinence and or fecal
incontinence.

Imaging at ___ revealed a R acetabulum and 
inferior
rami fractures and was transferred to ___ for orthopedic
evaluation.
 
Past Medical History:
Factor V Leiden
DM (not requiring meds)
HTN
Schizoaffective disorder
Asthma 

Prior colostomy (now reversed) after military injury in ___
L hip replacement ___ y ago) 
L knee replacement ___ y ago)
IVC Filter Placement
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
24 HR Data (last updated ___ @ 2342)
    Temp: 97.5 (Tm 97.5), BP: 108/70, HR: 68, RR: 18, O2 sat:
98%, O2 delivery: Ra  
GENERAL:     Alert and interactive, slightly hypomanic but 
             pleasantly so. No acute distress.
HEENT:       PERRL, EOMI. MMM.
CARDIAC:     RRR no m/r/g
LUNGS:       CTAB no r/r/w
ABDOMEN:     Soft, NT, ND, +BS
EXTREMITIES: No clubbing, cyanosis, or edema. Scarring from 
             previous surgeries present. Sensation intact.
SKIN:        Warm. Cap refill <2s. No rashes.
NEUROLOGIC:  AOx3. CN2-12 intact. Able to move left leg, right 
             leg movement limited by pain but able to wiggle 
             toes. 

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 526) 
Temp: 98.3 (Tm 98.3), BP: 118/77 (118-148/69-80), HR: 76 
(72-79),
RR: 20 (___), O2 sat: 98% (97-99), O2 delivery: RA, Wt: 201.28
lb/91.3 kg 
GEN: NAD, appears comfortable in bed eating breakfast
HEENT: AT/NC, anicteric, conjunctiva non-injected, MMM
HEART: RRR, 
LUNGS: CTAB
ABD: soft, NT, ND
NEURO: A&Ox3, able to move all extremities spontaneously
PSYCH: increased rate of speech, endorses AH - voices in the
background.
 

 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:34PM URINE  HOURS-RANDOM
___ 11:34PM URINE  UHOLD-HOLD
___ 11:34PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:34PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:10PM   GLUCOSE-76 UREA N-7 CREAT-0.8 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-108 TOTAL CO2-21* ANION GAP-11
___ 07:10PM   estGFR-Using this
___ 07:10PM   CALCIUM-7.8* PHOSPHATE-3.0 MAGNESIUM-1.9
___ 07:10PM   WBC-6.1 RBC-4.41* HGB-11.8* HCT-38.1* MCV-86 
MCH-26.8 MCHC-31.0* RDW-13.9 RDWSD-43.9
___ 07:10PM   NEUTS-51.9 ___ MONOS-7.8 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-3.17 AbsLymp-2.36 AbsMono-0.48 
AbsEos-0.07 AbsBaso-0.02
___ 07:10PM   PLT COUNT-204
___ 07:10PM   ___ PTT-34.2 ___

DISCHARGE LABS: NONE

IMAGING:
==============
___ Imaging FEMUR (AP & LAT) RIGHT   
IMPRESSION:  
Fracture of the right inferior pubic ramus.  Fracture of the
right acetabulum better assessed on same-day CT exam.  Multiple
large cystic lesions involving the right acetabulum adjacent to
the prosthesis. 

___ XR PELVIS W/JUDET VIEWS (3V)
IMPRESSION: 
Minimally displaced fracture through the right acetabulum.
Right inferior pubic ramus fracture.  Please refer to same-day 
CT for further
details.

___ XR PELVIS (AP, INLET & OUTLET)
IMPRESSION: 
Redemonstration of a right inferior pubic ramus fracture and 
minimally
displaced fracture through the right acetabulum, better assessed 
on CT pelvis
dated ___.

___ XR PELVIS (MIN 2 VIEWS)
IMPRESSION: 
Redemonstration of right acetabular and inferior pubic ramus 
fractures, in
unchanged alignment.  Cystic lucencies about the acetabular cup 
and proximal
femoral stem also re-demonstrated, and could suggest particle 
disease.
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with PMH Factor V Leiden (on warfarin), 
DM, HTN and prior R hip replacement who presented to ___ as a 
transfer from ___ after being found to have R 
acetabulum and inferior ramus fractures after a fall two days 
prior. 

In the ED imaging showed minimally displaced Right acetabular 
fracture and Right inferior pubic ramus fracture. Radiology also 
noted multiple large cystic lesions involving the right 
acetabulum adjacent to the prosthesis. He was seen by 
orthopedics who recommended non-operative management with 
protected weight bearing on crutches. ___ also saw the patient 
and recommended rehab placement for initial recovery. Given 
patients psych history he was also seen by psychiatry who noted 
he was stable and seemed to be appropriate for rehab. He was 
admitted for the weekend due to rehab placement issues. 

While on the floor, his home psych medications were continued. 
For pain management he was given Tylenol 1g TID standing and 
oxycodone 5mg q6hr PRN for pain. He was also continued on his 
home gabapentin. His home naltrexone was stopped due to pain 
management with opioids, but should be re-started after opioid 
taper. He was seen by ___ and psych while on the floor. Otherwise 
his stay was unremarkable.
Patient was discharged to rehab on ___.

Transitional Issues:
[] Orthopedics should f/u on imaging findings of multiple large 
cystic lesions involving the right acetabulum adjacent to the 
prosthesis, ?particle disease from hardware
[] Given his history of alcohol use disorder, important to 
appropriately taper his opioid pain medication and restart his 
home naltrexone as possible.
[] T2DM not on medications - check HA1c 
[] Warfarin management - on home dose, check INR weekly
[] ___ clinic at ___ manages his warfarin - Ensure 
he has an appointment with them on discharge from rehab(phone# 
___
[] Ensure OP f/u with his mental health Case Manager ___ 
___ (___)

** Expected patient will have less than 30 day rehab stay 

Code status: 
Full (presumed) 

Proxy: none chosen 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. BusPIRone 20 mg PO BID:PRN anxiety 
4. Senna 8.6 mg PO EVERY OTHER DAY 
5. Docusate Sodium 100 mg PO BID 
6. Warfarin 10 mg PO 6X/WEEK (___) 
7. Warfarin 15 mg PO 1X/WEEK (SA) 
8. Albuterol Inhaler 1 PUFF IH Q4H:PRN dyspnea 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. Gabapentin 800 mg PO QHS 
11. Gabapentin 400 mg PO QAM 
12. Simethicone 40-80 mg PO QID:PRN gas 
13. Loratadine 10 mg PO DAILY 
14. ARIPiprazole 20 mg PO DAILY 
15. Naltrexone 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
You can take this medication 3x daily for your pain as needed.  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
You can take this medication as needed for pain control. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
for pain Disp #*12 Capsule Refills:*0 
3.  Albuterol Inhaler 1 PUFF IH Q4H:PRN dyspnea  
4.  ARIPiprazole 20 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  BusPIRone 20 mg PO BID:PRN anxiety  
7.  Docusate Sodium 100 mg PO BID  
8.  Gabapentin 800 mg PO QHS  
9.  Gabapentin 400 mg PO QAM  
10.  Lidocaine 5% Patch 1 PTCH TD QAM  
11.  Lisinopril 5 mg PO DAILY  
12.  Loratadine 10 mg PO DAILY  
13.  Senna 8.6 mg PO EVERY OTHER DAY  
14.  Simethicone 40-80 mg PO QID:PRN gas  
15.  Warfarin 15 mg PO 1X/WEEK (SA)  
16.  Warfarin 10 mg PO 6X/WEEK (___)  
17. HELD- Naltrexone 50 mg PO DAILY  This medication was held. 
Do not restart Naltrexone until your doctor instructs you to 
restart it after stopping the oxycodone

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right acetabular fracture, non-displaced
Right inferior ramus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___ 

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
You had hip pain after a fall and were found to have fractures 
of your pelvis and your hip joint that do not require surgery.

What did you receive in the hospital?
You were seen by the orthopedics team and physical therapy who 
recommended you go to rehab to recover from your fractures. You 
received pain medications while you were here.

What should you do once you leave the hospital?
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___